US07786108B2
Step 3. Preparation of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add azidotributyltin (0.19 mL, 0.68 mmol) to a solution of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (180 mg, 0.34 mmol) in toluene (3.6 mL). Stir the mixture at 80° C. overnight. Cool down the mixture to room temperature; add ethyl acetate and 1N HCl (8.2 mL) and stir at room temperature for 1 h. Separate the layers, wash the organic phase with saturated KF, then with brine, dry over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with dichloromethane/methanol, and then by reverse phase purification to provide 198 mg (quantitative) of the title compound. MS (ES−): 575 (M−H).

reactant | azidotributyltin | 0.68 mmol, 0.19 mL | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.34 mmol, 180 mg | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=C(C=C3)Cl)C#N)C=C(C1)C(F)(F)F)(F)F | C24H22ClF6N3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1N, 8.2 mL | Cl | ClH
solvent | toluene | 3.6 mL | C1(=CC=CC=C1)C | C7H8
product | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=C(C=C3)Cl)C3=NN=NN3)C=C(C1)C(F)(F)F)(F)F | C24H23ClF6N6O2
